US04367335
The 2,4-thiazolidinedione sodium salt (13.91 g., 0.1 mole) is added to a solution of 1,4-dibromobutane (64.77 g., 0.3 mole) in 500 ml. of dry dimethylformamide. After stirring the mixture at room temperature for a 16 hr. period, the resulting clear solution is concentrated in vacuo and residual material dissolved in chloroform, filtered, and concentrated in vacuo to an amber oil. Distillation of the oil affords 20.62 g. (81% yield) of 3-(4-bromobutyl)-2,4-thiazolidinedione, b.p. 105°-115° C. at 0.02 mmHg.

reactant | 2,4-thiazolidinedione sodium salt | 0.1 mole, 13.91 g | [Na].S1C(NC(C1)=O)=O
reactant | 1,4-dibromobutane | 0.3 mole, 64.77 g | BrCCCCBr | C4H8Br2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(4-bromobutyl)-2,4-thiazolidinedione | 81% yield | BrCCCCN1C(SCC1=O)=O | C7H10BrNO2S
